US05861414
(ii) 4-{2-[3-(1-tert-Butoxycarbonylmethyl-piperidin-4-yl)-1-(4-chloro-benzyl)-1H-indazol-6-yl]-ethyl}-piperidine-1carboxylic acid tert-butyl ester
A solution of 4-{2-[3-(l-tert-butoxycarbonylmethyl-piperidin-4-yl)-1H-indazol-6-yl]-ethyl}-piperidine-1carboxylic acid tert-butyl ester (0.25 g, 0.475 mmol) in dry DMF (5 ml) was treated with sodium hydride (0.021 g, 0.523 mmol, 60% dispersion in oil) and the mixture was stirred at 23° under nitrogen for 30 min. A solution of 4-chlorobenzyl chloride (0.080 g, 0.497 mmol; Aldrich) in DMF (5 ml) was added and the mixture was stirred at 23° for 20 h. The solvent was removed in vacuo, the residue treated with water and extracted with dichloromethane (3×30 ml); the extracts were evaporated in vacuo to give an orange gum. Purification by flash chromatography on silica gel (Merck 9385), eluant ether: cyclohexane:triethylamine (50:50:2 to 100:0:2), gave the title compound as a colourless gum (0.107 g, 35%).

reactant | 4-{2-[3-(l-tert-butoxycarbonylmethyl-piperidin-4-yl)-1H-indazol-6-yl]-ethyl}-piperidine-1carboxylic acid tert-butyl ester | 0.475 mmol, 0.25 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCC1=CC=C2C(=NNC2=C1)C1CCN(CC1)CC(=O)OC(C)(C)C | C30H46N4O4
reactant | sodium hydride | 0.523 mmol, 0.021 g | [H-].[Na+]
reactant | 4-chlorobenzyl chloride | 0.497 mmol, 0.080 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-{2-[3-(1-tert-Butoxycarbonylmethyl-piperidin-4-yl)-1-(4-chloro-benzyl)-1H-indazol-6-yl]-ethyl}-piperidine-1carboxylic acid tert-butyl ester | 0.107 g, 35% | C(C)(C)(C)OC(=O)N1CCC(CC1)CCC1=CC=C2C(=NN(C2=C1)CC1=CC=C(C=C1)Cl)C1CCN(CC1)CC(=O)OC(C)(C)C | C37H51ClN4O4
